US08044041B2
A mixture of 1,3-dibromo-5-ethoxymethyl-2-methyl-benzene (1.322 g, 4.29 mmol), benzylamine (0.49 mL, 4.507 mmol), Pd2(dba)3 (409 mg, 0.447 mmol), rac-BINAP (811 mg, 1.302 mmol), NaOtBu (618 mg, 6.435 mmol) and toluene (30 mL) was heated at 80° C. for 1 h 45 minutes. The reaction was cooled, poured onto water and extracted with EtOAc (×3). The organics were washed with water, brine and dried (Na2SO4). Chromatography (Hexanes/EtOAc) afforded benzyl-(3-bromo-5-ethoxymethyl-2-methyl-phenyl)-amine (1.268 g) as a yellow liquid. 1H NMR (400 MHz, d6-DMSO) δ: 1.24 (t, 3H), 2.32 (s, 3H), 3.50 (q, 2H), 4.04 (bs, 1H), 4.41 (s, 4H), 6.61 (s, 1H), 7.00 (s, 1H), 7.35 (m, 5H) ppm.

reactant | 1,3-dibromo-5-ethoxymethyl-2-methyl-benzene | 4.29 mmol, 1.322 g | BrC1=C(C(=CC(=C1)COCC)Br)C | C10H12Br2O
reactant | benzylamine | 4.507 mmol, 0.49 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | rac-BINAP | 1.302 mmol, 811 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | 6.435 mmol, 618 mg | CC(C)(C)[O-].[Na+]
catalyst | Pd2(dba)3 | 0.447 mmol, 409 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | benzyl-(3-bromo-5-ethoxymethyl-2-methyl-phenyl)-amine | 1.268 g | C(C1=CC=CC=C1)NC1=C(C(=CC(=C1)COCC)Br)C | C17H20BrNO
